US05158953
To a solution of 3,4-dihydro-4-imino-3-allyl-2(1H) -quinazolinone (10 g, 50 mmol) in tetrahydrofuran (70 mL) was added N-bromosuccinimide (9.0 g, 50 mmol). The mixture was then stirred at room temperature for 25 minutes. The solid was collected by filtration and recrystallized from THF to afford 2-bromomethyl-2,3-dihydro-imidazo[1,2-c]quinazolin-5(6H)-one (11.18 g, 95%), mp 213°-214° C. 1H NMR (300 MHz, DMSO-d6): δ3.67(m, 2H, CH2), 3.74 (q, 1H, CH), 3.94 (t, 1H, CH), 4.57 (m, 1H, =CH), 7.07 (q, 2H, Ar--H), 7.51 (t, 1H, Ar--H), 7.78 (d, 1H, Ar--H), 10.65 (s, 1H, NH). 13C NMR (75 MHz, DMSO-d6): d 47.80, 64.16, 110.27, 115.13, 122.23, 125.80, 133.59, 139.97, 147.47, 153.98, 206.07. Anal. Calcd for C11H10N3OBr: C, 47.16; H, 3.59; N, 15.00. Found: C, 47.09; H, 3.41; N, 14.90.

reactant | 3,4-dihydro-4-imino-3-allyl-2(1H) -quinazolinone | 50 mmol, 10 g | N=C1N(C(NC2=CC=CC=C12)=O)CC=C | C11H11N3O
reactant | N-bromosuccinimide | 50 mmol, 9.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-bromomethyl-2,3-dihydro-imidazo[1,2-c]quinazolin-5(6H)-one | 11.18 g, 95% | BrCC1N=C2N(C(NC=3C=CC=CC23)=O)C1 | C11H10BrN3O
